US07851626B2
To a stirred solution of 4-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (8.02 g, 25 mmol) in methanol at 45° C. (150 mL) was added 4 N hydrochloric acid in 1,4-dioxane (100 mmol, 25 mL, Aldrich). The mixture was stirred at 45° C. for 7 h until thin layer chromatography (5% methanol in ethyl acetate) indicated that the reaction was complete. The solvent was removed under reduced pressure to give 1-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine dihydrochloride as a white solid (7.24 g, 99.5%). LR-MS: 218 [(M+H)+]

reactant | 4-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 25 mmol, 8.02 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCS(CC1)(=O)=O | C14H26N2O4S
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1,4-dioxane | 100 mmol, 25 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine dihydrochloride | 7.24 g, 99.5% | Cl.Cl.O=S1(CCC(CC1)N1CCNCC1)=O | InChI=1S/C9H18N2O2S.2ClH/c12-14(13)7-1-9(2-8-14)11-5-3-10-4-6-11;;/h9-10H,1-8H2;2*1H
